US06165941
6-[3-Chloro-5-trifluoromethylpyridin-2-yl]-4-propargyl-2H-1,4-benzoxazin-3-one
A solution of 3.6 g (11.0 mmol) of 3-chloro-2-[3-(2-chloroacetylamino)-4-hydroxyphenyl]-5-trifluoromethylpyridine in 50 ml of anhydrous dimethylformamide was added dropwise at 0° C. to a suspension of 0.4 g (12 mmol) of sodium hydride (80% strength in mineral oil) which had been freed of mineral oil and 50 ml of anhydrous dimethylformamide. After stirring for 15 minutes, 1.3 g (11.0 mmol) of propargyl bromide were added dropwise to this mixture. The reaction mixture was then slowly allowed to warm to about 20° C. room temperature, stirred for a further three hours and then poured into 500 ml of ice water. The aqueous phase was extracted three times with 200 ml of ethyl acetate each time. The combined organic phases were washed twice with a little water, dried over sodium sulfate and then concetrated. Chromatographic purification of the residure on silica gel (eluent: cyclohexane/ethyl acetate 4:1) gave 1.9 g (47%) of colorless crystals of m.p.: 136-137° C.

reactant | 3-chloro-2-[3-(2-chloroacetylamino)-4-hydroxyphenyl]-5-trifluoromethylpyridine | 11.0 mmol, 3.6 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)O)NC(CCl)=O | C14H9Cl2F3N2O2
reactant | sodium hydride | 12 mmol, 0.4 g | [H-].[Na+]
reactant | propargyl bromide | 11.0 mmol, 1.3 g | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-[3-Chloro-5-trifluoromethylpyridin-2-yl]-4-propargyl-2H-1,4-benzoxazin-3-one | 1.9 g, 47% | ClC=1C(=NC=C(C1)C(F)(F)F)C=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C17H10ClF3N2O2
